Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p MVC
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ restrained driver in high speed MVC. GCS 15 at scene and 
self
extricated. Went to OSH where initial imaging showed concern for
right sided frontal/parietal SDH. He was transferred for
neurosurgery evaluation. En route further review of his imaging
showed a lumbar spine retropulsion injury. He arrive in our ED
GCS 15, moving all extremities, with no focal deficits. The ED
had checked rectal tone which was intact with no gross blood.

 
Past Medical History:
HTN, GERD, Gout, cataracts bilateral (done at ___, history
of skin CA, appendectomy, right CEA

 
Social History:
___
Family History:
NC
 
Physical Exam:
On Admission:
98.3 72 160/67 20 96% ra 
NAD, PERRL, A+Ox3, CN intact
RRR
CTAB
abd soft, NT
mild bilateral edema, large bony changes bilateral olecranon
related to gout
motor and sensation intact, ___ 4+/5 bilaterally related to pain
but otherwise ___ throughout

On Discharge:
A&O x3, neuro intact. Has tophus gouty deposits in elbows 
bilaterally.

 
Pertinent Results:
CT Head ___:
1. Stable small right subdural hematoma along the right frontal 
temporal 
region. No mass-effect or shift of midline structures. 
2.  No additional hemorrhage. 

CT Chest ___:
No acute intrathoracic injury. Left posterior eleventh rib 
fracture is 
chronic. 

CT Abdomen/Pelvis ___:
1.  L2 burst fracture with 5 mm of retropulsion and 2 column 
involvement. 
2. Nondisplaced fracture through L1 anterior osteophyte at 
inferior endplate. Single column involvement. 
3. Small calcified gallstones without evidence of acute 
cholecystitis. 
4.  Diffuse colonic diverticulosis without evidence of acute 
diverticulitis. 
5.  Left bladder diverticulum. 

CT Head ___:
Stable size and morphology of tiny right frontotemporal 
extra-axial hematoma.

MRI Lumbar Spine: ___
Preliminary Report:
1. Fracture through the L2 vertebral body causing moderate 
vertebral body 
height loss. Marrow edema extends into the bilateral L2 
pedicles. There is mild retropulsion. 
2. Additional bony defects of the inferior L3 and superior L4 
endplates, 
either small fractures or Schmorl's nodes. There is increased 
T2/STIR signal within the L3-4 intervertebral disc that may be 
traumatic. 

 
Brief Hospital Course:
Patient was admitted to the ICU from the ED for frequent 
neurologic checks. He remained stable overnight on ___ into 
___. On morning rounds on ___ he was neurologically intact 
and remained on flat bedrest with logroll precautions. A TLSO 
brace was ordered and measured. He also underwent a repeat CT 
scan of the head to evalaute for interval change which showed 
stable right sided SDH. He was deemed fit for transfer to the 
floor while awaiting MRI of the L-Spine and transfer orders were 
written. In ___ afternoon he began developing signs of alcohol 
withdrawl and was placed on a phenobarb withdrawl scale. He 
remained in the ICU for initiation of the protocol.

On ___ BP was better controlled with PO medications. He was 
transferred to the floor. 

On ___ Patinet reamined stable. Repeat K and Mag was repleted. 
He was hypertensive to 180s which was resolved with 20mg 
hydralazine. His brace arrived and he was evaluate by ___. On ___ 
___ recommended that the patient be evaluated by OT.

On ___ the patient was transferred out of the step-down unit. 

On ___ the patient was seen and evaluated and was neurologically 
satable. He was offered a bed at rehab which was accepted and he 
was discharged to rehab on the afternoon of ___. Prior to 
discharge all questions were answered and he was given 
instructions for followup. 
 
Medications on Admission:
atenolol 25', lasnix 40', amlodipine 2.5', glucoasmine 1500', 
omeprazole 20', tamsulosin 0.4', travatan

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Amlodipine 2.5 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Docusate Sodium (Liquid) 100 mg PO DAILY:PRN constipation 
5. Heparin 5000 UNIT SC TID 
6. HydrALAzine ___ mg IV Q6H:PRN SBP>160 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
8. Omeprazole 20 mg PO DAILY 
9. Sarna Lotion 1 Appl TP QID:PRN itching 
10. Tamsulosin 0.4 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L2 fracture
Right Subdural hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
•You must wear your brace at all times when out of bed. You may 
apply your brace sitting at the edge of the bed. You do not need 
to sleep with it on. 
•You must wear your brace while showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication. Do 
NOT take any NSAIDs like Motrin, Ibuprofen, or Advil until 
cleared by your neurosurgeon. 
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___